US05639915
A round-bottomed flask (200 cc) equipped with a mechanical stirrer was charged with 5-amino-2-chloro-4-fluorophenol (3.00 g, 18.6 mmol), 3-methylcyclopentyl p-toluenesulfonate (4.60 g, 18.6 mmol), tetrabutylammonium bromide (300 mg, 0.93 mmol) and potassium iodide (300 mg, 1.81 mmol) to prepare a solution in toluene (30 mL). Subsequently, 48% sodium hydroxide in aqueous solution (30 mL) was added slowly and the mixture was stirred under heating at 100° C. for 48 h. After completion of the reaction, the reaction mixture was cooled to room temperature and water (50 mL) was added, followed by extraction with ethyl acetate (30 mL×3). The organic layers were combined, washed with water (10 mL) and saturated brine (10 mL) and dried with anhydrous magnesium sulfate. After the desiccant was removed, the solvent was distilled off under vacuum to give 2-fluoro-4-chloro-5-(3-methylcyclopentyloxy)aniline (1.94 g, 7.96 mmol; yield=42.9%) as a brown oil. 1H-NMR(CDCl3,TMS,ppm): δ1.02 and 1.10(total 3H, each d,J=6.0Hz), 1.22-2.58(7H,m), 3.75(2H,brs), 4.65(1H,m), 6.33(1H,d,JHF =8.0Hz), 6.98(1H,d,JHF =10.0Hz)

reactant | 5-amino-2-chloro-4-fluorophenol | 18.6 mmol, 3.00 g | NC=1C(=CC(=C(C1)O)Cl)F | C6H5ClFNO
reactant | 3-methylcyclopentyl p-toluenesulfonate | 18.6 mmol, 4.60 g | C1(=CC=C(C=C1)S(=O)(=O)OC1CC(CC1)C)C | C13H18O3S
reactant | potassium iodide | 1.81 mmol, 300 mg | [I-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.93 mmol, 300 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
product | 2-fluoro-4-chloro-5-(3-methylcyclopentyloxy)aniline | 7.96 mmol, 1.94 g, yield=42.9% | FC1=C(N)C=C(C(=C1)Cl)OC1CC(CC1)C | C12H15ClFNO
